US08383629B2
(±)-(E)-2-(trimethylsilyl)ethyl 7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-ylcarbamate (16.5 mg, 0.026 mmol) and Et4NF (30 mg) were dissolved in MeCN (3 mL). The solution was heated at 100° C. for 10 min in a microwave. The solution was concentrated and the residue was purified by preparative HPLC to give (±)-(E)-1-(3-amino-7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one (11 mg, 70%) as its TFA salt. LC-MS Method 1 tR=1.38, min, m/z=479, 481; 1H NMR (CD3OD) 1.53 (m, 1H), 1.67 (m, 1H), 2.08 (m, 1H), 2.55 (m, 1H), 2.9-3.5 (5H), 4.38 (d, 1H), 4.72 (d, 1H), 7.2-8.0 (9H).

reactant | (±)-(E)-2-(trimethylsilyl)ethyl 7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-ylcarbamate | 0.026 mmol, 16.5 mg | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)NC(OCC[Si](C)(C)C)=O | C29H34BrF3N2O3Si
reactant | Et4NF | 30 mg | [N+](CC)(CC)(CC)CC.[F-]
solvent | MeCN | 3 mL | CC#N | C2H3N
product | (±)-(E)-1-(3-amino-7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one | 11 mg, 70% | NC1CC2(CCN(CC2)C(\C=C\C2=C(C=CC=C2)C(F)(F)F)=O)C2=C(C=CC=C12)Br | C23H22BrF3N2O
